datasets/10k_Mayr_OG.csv
SMILES Labelled
F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>N#CC1=CC=C([N+:61]#[C:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)C=C1 10=20
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>COC12C3C[CH:20]([NH+:10]4CCC[CH:61]4[C:62](OC)=[O:63])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10=20;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)[C@@H]1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([CH2:10][C:11](=[O+:12]C3=CC=CC=C3)[Si:62](C)(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][CH:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]1 10=20;20,21=21"
F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H][C-:10]([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC>>[H][C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)([C:61](=[O:62])[O:92]CC)[C:71](=[O:72])[O:82]CC 10=20
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]2=CC=C(C)S2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C>>C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.C[Si+:11](C)[CH2:62][Ge:63](C)(C)C 10,11=10,20"
"COC1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1.C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>COC1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)=[O:62])C=C1 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10](C2=CC=CC=C2)[C:11](=[O+:12][Si:63](C)(C)C)[C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)/[CH:41]=[CH:42]/C2=CC=C(Cl)C=C2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[NH:10][NH:61]C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[NH+:10](C)[NH:61]C)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C=C[CH:20]([H:10])C1C2C43 10,11=10,20;20,21=21"
"CC(C)(C)O/[C:11](=[CH:10]/[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[O-:12].N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>CC(C)(C)O[C:11]([CH:10]([C:20]1(C#N)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCS1.[N:10]1=[C:11]([O-:12])[CH:71]=[CH:72][C:61]1=[O:62]>>C1C[C:20]([N:10]2[C:11](=[O:12])[CH:71]=[CH:72][C:61]2=[O:62])([O-:21])CCS1 10,11=10,20;12=11,12;20,21=21"
